US07135470B2
A solution of 5-bromo-thiophene-3-carboxylic acid (14.5 g, 70 mmol) was dissolved in SOCl2 and the mixture was refluxed for 2 hours. The mixture was concentrated under reduced pressure to give a yellow oil. The oil was was dissolved in EtOH and the mixture was refluxed for 1 hour, then concentrated under reduced pressure to give 5-bromo-thiophene-3-carboxylic acid ethyl ester as an oil (16.46 g, quantitative).

reactant | 5-bromo-thiophene-3-carboxylic acid | 70 mmol, 14.5 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | EtOH | CCO | C2H6O
solvent | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 5-bromo-thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CSC(=C1)Br | C7H7BrO2S
